US05183820
4-[[[2-(7-Fluoro-1-methyl-1H-indol-2-yl)ethyl]amino]methyl]-N,N,5-trimethyl -1H-imidazole-1-sulphonamide
To a solution of N-[[1-[(dimethylamino)sulphonyl]-5-methyl-1H-imidazol -4-yl]methyl]-2,2,2-trifluoro-N-[2-(7-fluoro-1-methyl-1H-indol-2-yl)-ethyl]acetamide (230 mg) in methanol (10 ml) was added potassium carbonate (350 mg), and the mixture was heated at reflux for 2 h. The mixture was then diluted with ethyl acetate (100 ml), washed with 8% sodium bicarbonate solution (100 ml), dried, and evaporated in vacuo to leave an oil. This was purified by FCC eluting with System A (200:8:1) to give the title compound (110 mg) as a solid, m.p. 114°-115.5°.

reactant | N-[[1-[(dimethylamino)sulphonyl]-5-methyl-1H-imidazol -4-yl]methyl]-2,2,2-trifluoro-N-[2-(7-fluoro-1-methyl-1H-indol-2-yl)-ethyl]acetamide | 230 mg | CN(S(=O)(=O)N1C=NC(=C1C)CN(C(C(F)(F)F)=O)CCC=1N(C2=C(C=CC=C2C1)F)C)C | C20H23F4N5O3S
reactant | potassium carbonate | 350 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-[[[2-(7-Fluoro-1-methyl-1H-indol-2-yl)ethyl]amino]methyl]-N,N,5-trimethyl -1H-imidazole-1-sulphonamide | 110 mg | FC=1C=CC=C2C=C(N(C12)C)CCNCC=1N=CN(C1C)S(=O)(=O)N(C)C | C18H24FN5O2S
